US04983601
1,2-Dihydro-8-methylbenzo[b]imidazo[1,2-d]pyrrolo[3,2,1-jk][1,4]benzodiazepine
1,2-Dihyrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-thione (4 g), propargylamine (1.2 ml), n-butanol (100 ml) and a catalytic amount of p-toluenesulfonic acid were combined and refluxed overnight. The reaction mixture was concentrated under reduced pressure. The residue was purified by high performance liquid chromatography (2% methanol/dichloromethane) to give 3.1 g (71.4%) of product. Recrystallization from ethanol gave the analytical sample, mp 175° C.

reactant | 1,2-Dihyrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-thione | 4 g | C1CC2=CC=CC=3C(NC4=C(N1C32)C=CC=C4)=S | C15H12N2S
reactant | propargylamine | 1.2 ml | C(C#C)N | C3H5N
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | 1,2-Dihydro-8-methylbenzo[b]imidazo[1,2-d]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 3.1 g, 71.4% | CC=1C=CC2=C(N3C4=C(C=5N2C=CN5)CCC=C4C=C3)C1 | C18H15N3
